US07851130B2
Dibenzothiophene (20.0 g) is suspended in 80.0 ml of trifluoroacetic acid at room temperature. To the suspension is slowly dropped 12.4 ml of 30% (w/v) aqueous hydrogen peroxide while cooling with ice so as to maintain the reaction temperature around 60° C. After completion of dropping, the reaction solution is stirred at room temperature for 30 minutes. After the reaction, the reaction solution is added to 1,000 ml of water to precipitate crystals. The crystals are recovered by filtration and washed with water. The obtained crystals are recrystallized with acetonitrile to obtain 19.2 g of dibenzothiophene-S-oxide.

reactant | Dibenzothiophene | 20.0 g | C1=CC=CC=2SC3=C(C21)C=CC=C3 | C12H8S
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 1,000 ml | O | H2O
solvent | trifluoroacetic acid | 80.0 ml | FC(C(=O)O)(F)F | C2HF3O2
product | dibenzothiophene-S-oxide | 19.2 g | C1=CC=CC=2S(C3=C(C21)C=CC=C3)=O | C12H8OS
